US09428528B2
Step 3 Preparation of 1-((4S,5R)-5-(4-(6-(3-aminooxetan-3-yl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-3-yl)-2,2-difluoroethanone
To a toluene/ethanol (15 ml toluene, 12 ml ethanol) solution of 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-3-yl)ethanone (594 mg, 1.44 mmol) is added 3-(5-bromopyridin-2-yl)oxetan-3-aminium chloride (434 mg, 1.44 mmols), sodium bicarbonate (3 mL of a 2M solution) and Pd(dppf)2Cl2 (150 mg, 0.2 mmol)). The reaction mixture is heated to 80° C. while stirring under nitrogen for two hours. The reaction is cooled to room temperature and diluted with ethyl acetate (60 ml). The mixture is washed water (2×10 ml). The organic phase is dried over sodium sulfate and concentrated. The residual material is purified on silica gel (mobile phase 6% methanol in methylene chloride) to give the title compound (436 mg, 70%): m/z (CI) 436 [M+H]+.

reactant | toluene ethanol | 15 ml | C1(=CC=CC=C1)C.C(C)O
reactant | 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazolidin-3-yl)ethanone | 1.44 mmol, 594 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | 3-(5-bromopyridin-2-yl)oxetan-3-aminium chloride | 1.44 mmols, 434 mg | [Cl-].BrC=1C=CC(=NC1)C1(COC1)[NH3+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.2 mmol, 150 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-((4S,5R)-5-(4-(6-(3-aminooxetan-3-yl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-3-yl)-2,2-difluoroethanone | 436 mg, 70% | NC1(COC1)C1=CC=C(C=N1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C22H24F3N3O3
